US07935727B2
Methyl 2-chloro-2′-fluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate
Methyl 2-chloro-2′-fluoro-4′-methoxybiphenyl-4-carboxylate (550 mg, 1.87 mmol), methanol (8 mL), iodine (474 mg, 1.87 mmol), and silver sulfate (583 mg, 1.87 mmol) were stirred at room temperature for 2 hours to complete the reaction. The crude reaction mixture was worked up with NaHSO3 (aq). Volatiles were removed under reduced pressure. The pot residue was worked up with brine, extracted with ethyl acetate, dried over Na2SO4, filtered and evaporated to afford a light brown solid. This solid was purified on SiO2 (Biotage HorizonFlash system, 40+M cartridge, 0-20% EtOAc/hexanes, v/v) to afford the title compounds as a light yellow solid. LCMS calc.=419.94; found=420.86 (M+1)+.

reactant | Methyl 2-chloro-2′-fluoro-4′-methoxybiphenyl-4-carboxylate | 1.87 mmol, 550 mg | ClC1=C(C=CC(=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C15H12ClFO3
reactant | iodine | 1.87 mmol, 474 mg | II | I2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
catalyst | silver sulfate | 1.87 mmol, 583 mg | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | methanol | 8 mL | CO | CH4O
product | Methyl 2-chloro-2′-fluoro-5′-iodo-4′-methoxybiphenyl-4-carboxylate | ClC1=C(C=CC(=C1)C(=O)OC)C1=C(C=C(C(=C1)I)OC)F | C15H11ClFIO3
